US03948939
4-Acetamidophenyl 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylate
A solution of 9.6 g. of 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid, 15 ml. of thionyl chloride and two drops of dry dimethylformamide in 100 ml. of ethylene dichloride was stirred at room temperature for 7 hours. The mixture was evaporated to dryness under reduced pressure, at room temperature, and to the resulting residue was added a solution of 6 g. of 4-acetamidophenol in 50 ml. of dry pyridine. The solution was stirred at room temperature for 30 minutes and diluted with water. The resulting solid was collected by filtration to give 6.74 g. of the title compound; m.p. 166°-168°C. (ethyl alcohol).

reactant | 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=CC=CC=C2C=2CC(CCC12)C(=O)O | C20H17NO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | two drops | CN(C=O)C | C3H7NO
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | 4-Acetamidophenyl 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylate | C(C1=CC=CC=C1)(=O)N1C2=CC=CC=C2C=2CC(CCC12)C(=O)OC1=CC=C(C=C1)NC(C)=O | C28H24N2O4
